US04005151
3,4-Dichloroaniline was treated with 60% of aqueous sulfuric acid solution which was recovered from Example 5 by a method similar to that described in Example 5. After diazotization, inorganic crystals formed in the diazotization was removed by filtration and the filtrate thus obtained as hydrolyzed and treated by a method similar to those described in Example 5. 32.4 Grams of 3,4-dichlorophenol (118° - 122° C/10 mmHg) was obtained. The yield was found to be 80.5%.

reactant | 3,4-Dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
